US04043998
Step VI -- Preparation of 1-(p-Aminophenyl)-ethylenediaminetetraacetic acid
43 mg, 0.10 mmol of 1-(p-Nitrophenyl)-ethylenediaminetetraacetic acid was dissolved in 50 ml of aqueous NaOH (such that the final pH was 9), and 29 mg of 10% Pd/charcoal catalyst was added. The mixture was stirred gently for 5 hr in an ice bath under 1 atm of hydrogen. The catalyst was removed by filtration, and the filtrate was evaporated to dryness. In D2O, the aromatic region of the 60 MHz nmr spectrum of the 1-(p-Aminophenyl)-ethylenediaminetetraacetic acid product consisted of an aa'bb' pattern centered 7.0 ppm downfield from Me4Si. The differences in the nmr spectra of the products of Steps V and VI make it convenient to monitor the progress of the reduction by nmr. By this criterion, the reduction was quantitative. The product was stored in the dark at -15°.

reactant | 1-(p-Nitrophenyl)-ethylenediaminetetraacetic acid | 0.10 mmol, 43 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C16H19N3O10
reactant | hydrogen | [H][H] | H2
solvent | NaOH | 50 ml | [OH-].[Na+]
catalyst | Pd charcoal | 29 mg | [Pd].C
product | 1-(p-Aminophenyl)-ethylenediaminetetraacetic acid | NC1=CC=C(C=C1)C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C16H21N3O8
